US08975400B2
2-(trifluoromethyl)-4H-pyran-4-one
To a mixture of KOtBu (729 mg, 6.49 mmol) in diethyl ether (10 mL) at 5° C. were added methyl 2,2,2-trifluoroacetate (767 mg, 5.99 mmol) and (E)-4-methoxybut-3-en-2-one (500 mg, 4.99 mmol). The reaction mixture was stirred at rt for 3 h, and quenched with water and then extracted with ether. Combined organic portions were dried over Na2SO4, filtered and concentrated. The residue was dissolved in isopropanol (150 mL) and 35% solution of hydrochloric acid (0.5 mL) and refluxed for 45 min. Then the solution was concentrated to remove alcohol and fractionated at reduced pressure to get the title product as yellow oil.

reactant | KOtBu | 6.49 mmol, 729 mg | CC(C)(C)[O-].[K+]
reactant | methyl 2,2,2-trifluoroacetate | 5.99 mmol, 767 mg | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | (E)-4-methoxybut-3-en-2-one | 4.99 mmol, 500 mg | CO/C=C/C(C)=O | C5H8O2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-(trifluoromethyl)-4H-pyran-4-one | FC(C=1OC=CC(C1)=O)(F)F | C6H3F3O2
